US08455522B2
A flask was charged with 5-bromo-6-fluorobenzo[d]oxazol-2(3H)-one (3.6 g, 14.74 mmol) and DMSO (150 mL), and MeI (4.18 g, 29.5 mmol) and potassium carbonate (5.09 g, 36.9 mmol) were added. The mixture was stirred at room temperature overnight. The mixture was poured to water (1.2 L) and the precipitate was filtered, washed with water and dried under high vacuum at 60° C. for 1 h to give 5-bromo-6-fluoro-3-methylbenzo[d]oxazol-2(3H)-one. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.32 (s, 3H) 7.62 (d, J=8.34 Hz, 1H) 7.70 (d, J=6.06 Hz, 1H).

reactant | 5-bromo-6-fluorobenzo[d]oxazol-2(3H)-one | 14.74 mmol, 3.6 g | BrC=1C(=CC2=C(NC(O2)=O)C1)F | C7H3BrFNO2
reactant | DMSO | 150 mL | CS(=O)C | C2H6OS
reactant | MeI | 29.5 mmol, 4.18 g | CI | CH3I
reactant | potassium carbonate | 36.9 mmol, 5.09 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 1.2 L | O | H2O
product | 5-bromo-6-fluoro-3-methylbenzo[d]oxazol-2(3H)-one | BrC=1C(=CC2=C(N(C(O2)=O)C)C1)F | C8H5BrFNO2
